US05185251
Step G: Preparation of 3-[2-(benzoxazol-2-yl)ethyl]-5-ethyl-6-hydroxymethyl-2(1H)-pyridinone
A solution of 3-[2-(benzoxazol-2-yl)ethyl]-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone (198 mg, 0.51 mmol) in dry methylene chloride (6 mL) was cooled in an ice/acetone bath and 1M boron tribromide/hexane (1.5 mL, 1.5 mmol) was added dropwise to give a white precipitate. This suspension was stirred for one hour and then the reaction was quenched by addition of saturated aqueous NaHCO3 (10 mL). After stirring for 0.5 hours, the product was extracted into CH2Cl2, dried, filtered and the solvent evaporated to give a solid. Trituration with diethyl ether gave product as a tan solid. Recrystallization from ethyl acetate afforded a light yellow solid with m.p. of 155°-156° C.

reactant | 3-[2-(benzoxazol-2-yl)ethyl]-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone | 0.51 mmol, 198 mg | O1C(=NC2=C1C=CC=C2)CCC=2C(NC(=C(C2)CC)COCC2=CC=CC=C2)=O | C24H24N2O3
reactant | boron tribromide hexane | 1.5 mmol, 1M, 1.5 mL | B(Br)(Br)Br.CCCCCC
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(benzoxazol-2-yl)ethyl]-5-ethyl-6-hydroxymethyl-2(1H)-pyridinone | O1C(=NC2=C1C=CC=C2)CCC=2C(NC(=C(C2)CC)CO)=O | C17H18N2O3
